US07091353B2
{5-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylcarbamoyl]-pentyl}-carbamic acid benzyl ester I-117
A solution of 6-benzyloxycarbonylamino-hexanoic acid(2.65 g, 10 mmol) in thionyl chloride (15 ml) was heated to reflux 1 h. The reaction mixture was allowed to cool to room temperature and the solvent was evaporated in vacuo to give (5-chlorocarbonyl-pentyl)-carbamic acid benzyl ester as tan oil. The oil was used without further purification. (5-Chlorocarbonyl-pentyl)-carbamic acid benzyl ester was dissolved in THF (50 ml). To this solution was added 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (1.37 g, 5 mmol). The resulting suspension was to reflux for 4 hours. The solvent was evaporated in vacuo and the resulting solid was partially purified by flash chromatography (60/40 ethyl acetate/hexane) to give a light yellow solid. The solid was recystallized from minimal ethyl acetate to give 1.24 g (48%) of product as an off-white solid: mp 122–125 ° C.; 1H NMR (DMSO-d6) 11.18 (s, 1H), 9.70 (s, 1H), 8.49 (d, J=8.4 Hz, 1H), 7.83 (t, J=7.7 Hz, 1H), 7.61 (d, J=7.2 Hz, 1H), 7.34–7.24 (m, 6H), 5.16 (dd, J=5.1 and 12.6 Hz, 1H), 5.00 (s, 2H), 3.02–2.84 (m, 3H), 2.65–2.43 (m, 4H), 2.12–2.05 (m, 1H), 1.65–1.15 (m, 6H; 13C NMR (DMSO-d6) 172.75, 171.95, 169.77, 167.72, 166.67, 156.08, 137.29, 136.57, 136.09, 131.43, 128.32, 127.70, 126.21, 118.25, 116.90, 65.08, 48.92, 36.47, 30.94, 30.67, 29.14, 25.77, 24.47, 21.99; Anal. Calcd. For C27H28N4O7: C, 62.30; H, 5.42; N, 10.76. Found: C, 62.40; H, 5.31; N, 10.48.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 5 mmol, 1.37 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {5-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylcarbamoyl]-pentyl}-carbamic acid benzyl ester | 1.24 g, 48% | C(C1=CC=CC=C1)OC(NCCCCCC(NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O)=O)=O | C27H28N4O7
